US05252601
Step c: N-[[1,2,3,4-Tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-alanine, benzyl ester
Dissolve 2-carboxy-2-(t-butyl)thiomethyl-1,2,3,4-tetrahydronaphthalene (278 mg, 1.0 mmol) in anhydrous tetrahydrofuran (10 mL). Add 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (230 mg, 1.2 mmol), L-alanine benzyl ester hydrochloride (216 mg, 1.00 mmol) and triethylamine (0.132 mL, 1.00 mmol). Stir at room temperature under an argon atmosphere overnight. Partition between ethyl ether and 5% sulfuric acid. Separate the organic phase and wash with water, saturated sodium hydrogen carbonate and brine. Dry (MgSO4) and evaporate the solvent in vacuo. Purify by silica gel chromatography (20% ethyl acetate/hexane) to give the title compound as a clear yellow oil (210 mg, 48%).

reactant | 2-carboxy-2-(t-butyl)thiomethyl-1,2,3,4-tetrahydronaphthalene | 1.0 mmol, 278 mg | C(=O)(O)C1(CC2=CC=CC=C2CC1)CSC(C)(C)C | C16H22O2S
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 1.2 mmol, 230 mg | Cl.CN(CCCN=C=NCC)C
reactant | L-alanine benzyl ester hydrochloride | 1.00 mmol, 216 mg | Cl.C(C1=CC=CC=C1)OC([C@@H](N)C)=O
reactant | triethylamine | 1.00 mmol, 0.132 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[[1,2,3,4-Tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-alanine, benzyl ester | 210 mg, 48% | C(C)(C)(C)SCC1(CC2=CC=CC=C2CC1)C(=O)N[C@@H](C)C(=O)OCC1=CC=CC=C1 | C26H33NO3S
